US04258058
A mixture of 17.92 g. (0.1 mol) 4-(2-acetamino-ethyl)-phenol, 17.3 g. (0.125 mol) pulverized potassium carbonate and 150 ml. butan-2-one is stirred for 2 hours at reflux temperature, then 27.9 g. (0.125 mol) ethyl 2-bromohexanoate and a spatula tip of potassium iodide are added thereto and the reaction mixture kept at reflux temperature for a further 28 hours. The reaction mixture is then filtered with suction and the filtrate evaporated in a vacuum. The residue is taken up in diethyl ether and the ethereal phase is extracted with 2 N hydrochloric acid, water, 0.5 N aqueous sodium hydroxide solution and again with water, dried over anhydrous sodium sulphate and evaporated to give 32.1 g. (quantitative yield) ethyl 2-[4-(2-acetaminoethyl)-phenoxy]-n-hexanoate in the form of a colorless oil with a refractive index nD20 =1.5010.

reactant | 4-(2-acetamino-ethyl)-phenol | 0.1 mol | N(C(=O)C)CCC1=CC=C(C=C1)O | C10H13NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromohexanoate | 0.125 mol | BrC(C(=O)OCC)CCCC | C8H15BrO2
reactant | potassium iodide | [I-].[K+]
solvent | butan-2-one | CC(CC)=O | C4H8O
product | ethyl 2-[4-(2-acetaminoethyl)-phenoxy]-n-hexanoate | quantitative yield | N(C(=O)C)CCC1=CC=C(OC(C(=O)OCC)CCCC)C=C1 | C18H27NO4
